US03989682
0.45 g of 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide O-(p-methylbenzyl)-oxime was dissolved in a mixture of 0.30g of sodium hydroxide, 5 ml of methanol and 0.5 ml of carbon disulfide, and the resulting mixture was allowed to react in an autoclave at 130° C for 4 hours under autogenous pressure (about 10 Kg/cm2). The reaction mixture was concentrated to dryness, and the residue was dissolved in water. The resulting aqueous solution was adjusted to a pH of 2 with hydrochloric acid, and the precipitated crystals were filtered to obtain crude 2-thioadenosine. The crude product was dissolved in aqueous ammonia, filtered and adjusted to a pH of 2 with hydrochloric acid to obtain 0.27 g of pure 2-thioadenosine having a melting point of 198° C (with decomposition) in a 72% yield.

reactant | 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide O-(p-methylbenzyl)-oxime | 0.45 g | CC1=CC=C(CON=C(N)C=2N=CN(C2N)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C17H23N5O5
reactant | carbon disulfide | 0.5 ml | C(=S)=S | CS2
solvent | sodium hydroxide | 0.30g | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | ammonia | N | H3N
product | 2-thioadenosine | 0.27 g, 72% yield | C1=NC2=C(NC(=S)N=C2N1[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O)N | C10H13N5O4S
